US08835494B2
To a suspension of 1-(3′,4′-dichloro-2-fluorobiphenyl-4-yl)cyclopropane carboxylic acid (1630 mg, 5.012 mmol) in DCM (55 mL) containing a few drops of DMF, under nitrogen atmosphere, at 0° C., oxalyl dichloride (0.849 mL, 10.02 mmol) was added dropwise, and the reaction was stirred at room temperature for 20 minutes. Solvent was evaporated, and the residue taken up with toluene and dried under vacuum, obtaining crude acyl chloride. Acyl chloride was dissolved in DCM (10 mL) and added dropwise, at 0° C., under nitrogen atmosphere, to a solution of N-[3-(acetylmethylamino)-2-hydroxypropyl]-N-methylacetamide (I5) (676 mg, 3.342 mmol) and triethylamine (2.8 mL, 20.08 mmol) in DCM (50 mL). The reaction was stirred at r.t. overnight and then heated at 40° C. for 2 hours. The reaction mixture was diluted with DCM and washed with H2O (2×) and a saturated solution of NaHCO3 (2×). The organic layer was dried with Na2SO4, filtered and concentrated to dryness. The crude thus obtained was purified by silica gel flash chromatography (DCM:methanol 99:1 v/v) affording acetic acid 1-[(acetylmethylamino)methyl]-2-{[1-(3′,4′-dichloro-2-fluorobiphenyl-4-yl)cyclopropanecarbonyl]methylamino}ethyl ester (350 mg, 21% yield) as pale yellow foam.

reactant | 1-(3′,4′-dichloro-2-fluorobiphenyl-4-yl)cyclopropane carboxylic acid | 5.012 mmol, 1630 mg | ClC=1C=C(C=CC1Cl)C1=C(C=C(C=C1)C1(CC1)C(=O)O)F | C16H11Cl2FO2
reactant | oxalyl dichloride | 10.02 mmol, 0.849 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N-[3-(acetylmethylamino)-2-hydroxypropyl]-N-methylacetamide | 3.342 mmol, 676 mg | C(C)(=O)CNCC(CN(C(C)=O)C)O | C9H18N2O3
reactant | triethylamine | 20.08 mmol, 2.8 mL | C(C)N(CC)CC | C6H15N
solvent | DCM | 55 mL | C(Cl)Cl | CH2Cl2
catalyst | DMF | a few drops | CN(C)C=O | C3H7NO
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | acetic acid 1-[(acetylmethylamino)methyl]-2-{[1-(3′,4′-dichloro-2-fluorobiphenyl-4-yl)cyclopropanecarbonyl]methylamino}ethyl ester | 350 mg, 21% yield | C(C)(=O)CNCC(CNCC(=O)C1(CC1)C1=CC(=C(C=C1)C1=CC(=C(C=C1)Cl)Cl)F)OC(C)=O | C25H27Cl2FN2O4
